US07846954B2
A stirred solution of (R)-4-[2-(2,2-dimethyl-5-oxo-1,3-dioxolan-4-yl)ethylamino]-N-(thiazol-2-yl)benzene-sulfonamide (833 mg, 2.15 mmol), p-toluenesulfonic acid monohydrate (42 mg, 0.22 mmol), and THF (10 mL) was stirred at 80° C. for 3 hours. The mixture was concentrated to dryness under reduced pressure. The residue was purified by silica gel chromatography (5% MeOH in DCM) to give (R)-4-(3-hydroxy-2-oxopyrrolidin-1-yl)-N-(thiazol-2-yl)benzene sulfonamide as a white solid (496 mg, 1.4 mmol, 65% yield). 1H-NMR (400 MHz, DMSO-d6) δ 7.85 (dd, J=2.1, 6.9 Hz, 4H), 7.25 (d, J=4.6 Hz, 1H), 6.82 (d, J=4.6 Hz, 1H), 5.83 (d, J=5.9 Hz, 1H), 4.32 (d, J=5.3 Hz, 1H), 3.77 (dd, J=1.9, 9.0 Hz, 1H), 3.71-3.69 (m, 1H), 2.41-2.38 (m, 1H), 1.84 (dd, J=9.2, 12.3 Hz, 1H). LC/MS (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)), m/z: M+1 obs=340.2; tR=0.50 min.

reactant | (R)-4-[2-(2,2-dimethyl-5-oxo-1,3-dioxolan-4-yl)ethylamino]-N-(thiazol-2-yl)benzene-sulfonamide | 2.15 mmol, 833 mg | CC1(OC([C@H](O1)CCNC1=CC=C(C=C1)S(=O)(=O)NC=1SC=CN1)=O)C | C16H19N3O5S2
reactant | p-toluenesulfonic acid monohydrate | 0.22 mmol, 42 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (R)-4-(3-hydroxy-2-oxopyrrolidin-1-yl)-N-(thiazol-2-yl)benzene sulfonamide | 1.4 mmol, 496 mg, 65% yield | O[C@H]1C(N(CC1)C1=CC=C(C=C1)S(=O)(=O)NC=1SC=CN1)=O | C13H13N3O4S2
